US05798451
Preparation of 4-hydroxy-2-oxoquinoline-3-carboxylic Acid tert-butylamide
8.76 g (0.04 mol) of methyl 4-hydroxy-2-oxoquinoline-3-carboxylate was stirred with 3.7 g (0.05 mol) of tert-butylamine in 60 ml of ethanol in a miniautoclave for 8 hours at 150° C. under autogenous pressure. After cooling, the crystals were removed by suction filtration, washed with ligroin and dried.

reactant | methyl 4-hydroxy-2-oxoquinoline-3-carboxylate | 0.04 mol, 8.76 g | OC1=C(C(NC2=CC=CC=C12)=O)C(=O)OC | C11H9NO4
reactant | tert-butylamine | 0.05 mol, 3.7 g | C(C)(C)(C)N | C4H11N
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-hydroxy-2-oxoquinoline-3-carboxylic Acid tert-butylamide | C(C)(C)(C)NC(=O)C=1C(NC2=CC=CC=C2C1O)=O | C14H16N2O3
